US04772681
Synthesis of 3,8,13,17-tetramethyl-2,18-bis(3-pyridiniopropyl)-21H,23H-porphin dibromide
To 120 mg of 3,8,13,17-tetramethyl-2,18-bis(3-bromopropyl)-21H,23H-porphin, 2 ml of pyridine is added, followed by refluxing for 5 hours. The precipitated crystals are recovered by filtration, washed with 3 ml of pyridine and dried, whereby 140 mg (yield 92.8%) of brownish black desired compound is obtained.

reactant | 3,8,13,17-tetramethyl-2,18-bis(3-bromopropyl)-21H,23H-porphin | 120 mg | CC=1C(=C2NC1C=C1C=C(C(=N1)C=C1C=C(C(N1)=CC=1C(=C(C(N1)=C2)CCCBr)C)C)C)CCCBr | C30H32Br2N4
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3,8,13,17-tetramethyl-2,18-bis(3-pyridiniopropyl)-21H,23H-porphin dibromide | 140 mg, yield 92.8% | [Br-].[Br-].CC=1C(=C2NC1C=C1C=C(C(=N1)C=C1C=C(C(N1)=CC=1C(=C(C(N1)=C2)CCC[N+]2=CC=CC=C2)C)C)C)CCC[N+]2=CC=CC=C2 | InChI=1S/C40H42N6.2BrH/c1-27-21-32-24-37-29(3)33(13-11-19-45-15-7-5-8-16-45)39(43-37)26-40-34(14-12-20-46-17-9-6-10-18-46)30(4)38(44-40)25-36-28(2)22-31(42-36)23-35(27)41-32;;/h5-10,15-18,21-26,42-43H,11-14,19-20H2,1-4H3;2*1H/q+2;;/p-2
